US05234907
Boc-O-Methyl-Tyrosine (Boc-O-Me-Tyr)
1.0 g (5.1 mmol) of 0-methyl-tyrosine and 1.08 g (10.2 mmol) of sodium carbonate were treated with 1.7 g (7.7 mmol) di-tert-butyl-dicarbonate as in Example 34 except that 25 mL H2O and 12 mL dioxane were used. After workup, the methylene chloride layers were evaporated to a clear oil that was crystallized from Et2O/petroleum ether to yield 1.1 g (73%) of white solid. mp 94-96° C.

reactant | 0-methyl-tyrosine | 5.1 mmol, 1.0 g | CC1=C(C[C@H](N)C(=O)O)C=CC(=C1)O | C10H13NO3
reactant | sodium carbonate | 10.2 mmol, 1.08 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl-dicarbonate | 7.7 mmol, 1.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | 25 mL | O | H2O
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | Boc-O-Methyl-Tyrosine | 1.1 g, 73% | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)OC)C(=O)O | C15H21NO5
